US08685969B2
7. Benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate
A mixture of benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate (1.75 g, 3.48 mmol), ammonium chloride (2.79 g, 52.1 mmol), and zinc dust (3.41 g, 52.1 mmol) in tetrahydrofuran (35 mL) and methanol (35 mL) was stirred at room temperature for 4.5 hr. The mixture was diluted with ethyl acetate (40 mL) and filtered through CELITE®. The filtrate was concentrated under vacuum, and the residue was diluted with water (40 mL), basified with saturated NaHCO3 solution, and extracted with ethyl acetate (4×40 mL). The combined extract was washed with brine (40 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (1.65 g, 3.48 mmol, 100% yield) as beige solid.

reactant | benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate | 3.48 mmol, 1.75 g | COCCOC1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C28H29N3O6
reactant | ammonium chloride | 52.1 mmol, 2.79 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | methanol | 35 mL | CO | CH4O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 52.1 mmol, 3.41 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 3.48 mmol, 1.65 g, 100% yield | NCC(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C28H31N3O4
